US09034850B2
Step B. [2-((R)-1-tert-butoxycarbonylamino-2-{3-(2-fluoro-6-trifluoromethyl-benzyl)-4-methyl-2,6-dioxo-5-[4-(5-trifluoromethyl-furan-2-ylmethyl)-piperazin-1-yl]-3,6-dihydro-2H-pyrimidin-1-yl}-ethyl)-phenoxy]-acetic acid tert-butyl ester
A solution of [(R)-2-{3-(2-fluoro-6-trifluoromethyl-benzyl)-4-methyl-2,6-dioxo-5-[4-(5-trifluoromethyl-furan-2-ylmethyl)-piperazin-1-yl]-3,6-dihydro-2H-pyrimidin-1-yl}-1-(2-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (100 mg, 0.13 mmol), potassium carbonate (36 mg, 0.26 mmol), and bromo-acetic acid tert-butyl ester (38 μl, 0.26 mmol) were dissolved at 70° C. for 4 hrs in DMF (1 mL) with stirring, and then chilled to room temperature. The solution was diluted in dichloromethane and washed with an aqueous saturated sodium bicarbonate solution. The organic layer thus formed was separated and concentrated, and the residue was purified using silica gel chromatography (eluent: hexane/ethyl acetate, 2/1) and dried in a vacuum to afford 51 mg of the compound as a white oil (yield 44%).

reactant | [(R)-2-{3-(2-fluoro-6-trifluoromethyl-benzyl)-4-methyl-2,6-dioxo-5-[4-(5-trifluoromethyl-furan-2-ylmethyl)-piperazin-1-yl]-3,6-dihydro-2H-pyrimidin-1-yl}-1-(2-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 0.13 mmol, 100 mg | C(C)(C)(C)OC(N[C@@H](CN1C(N(C(=C(C1=O)N1CCN(CC1)CC=1OC(=CC1)C(F)(F)F)C)CC1=C(C=CC=C1C(F)(F)F)F)=O)C1=C(C=CC=C1)O)=O | C36H38F7N5O6
reactant | potassium carbonate | 0.26 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromo-acetic acid tert-butyl ester | 0.26 mmol, 38 μl | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | [2-((R)-1-tert-butoxycarbonylamino-2-{3-(2-fluoro-6-trifluoromethyl-benzyl)-4-methyl-2,6-dioxo-5-[4-(5-trifluoromethyl-furan-2-ylmethyl)-piperazin-1-yl]-3,6-dihydro-2H-pyrimidin-1-yl}-ethyl)-phenoxy]-acetic acid tert-butyl ester | 51 mg, yield 44% | C(C)(C)(C)OC(COC1=C(C=CC=C1)[C@H](CN1C(N(C(=C(C1=O)N1CCN(CC1)CC=1OC(=CC1)C(F)(F)F)C)CC1=C(C=CC=C1C(F)(F)F)F)=O)NC(=O)OC(C)(C)C)=O | C42H48F7N5O8
